US05290939
7.6 g of 4-(7-bromo-5-methoxy-benzofuran-2-yl)-1-ethoxycarbonyl-piperidine are dissolved in 80 ml of ethylene glycol. After the addition of 19.4 g of 86% potassium hydroxide, the resulting cloudy solution is heated at 160° with vigorous stirring for 18 hours. The reaction mixture is cooled to 100°, diluted with 80 ml of toluene, and cooled further to 20°. The reaction solution is extracted twice with 1000 ml of water each time and then four times with 200 ml of a 10% solution of methanesulfonic acid in water each time. The resulting solution in methanesulfonic acid is adjusted to pH 12 by the addition of 30% sodium hydroxide solution and extracted by shaking with 1000 ml of chloroform. The chloroform solution is dried over sodium sulfate, filtered and concentrated by evaporation. Crystallisation from ethyl acetate yields 4-(7-bromo-5-methoxybenzofuran-2-yl)-piperidine having a melting point of 149°-152°. There is obtained from the base by treatment with methanolic hydrochloric acid and recrystallisation from methanol/ether 4-(7-bromo-5-methoxy-benzofuran-2-yl)-piperidine-hydrochloride having a melting point of 242°-243°.

reactant | 4-(7-bromo-5-methoxy-benzofuran-2-yl)-1-ethoxycarbonyl-piperidine | 7.6 g | BrC1=CC(=CC=2C=C(OC21)C2CCN(CC2)C(=O)OCC)OC | C17H20BrNO4
reactant | potassium hydroxide | 19.4 g | [OH-].[K+]
solvent | ethylene glycol | 80 ml | C(CO)O | C2H6O2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(7-bromo-5-methoxybenzofuran-2-yl)-piperidine | BrC1=CC(=CC=2C=C(OC21)C2CCNCC2)OC | C14H16BrNO2
